US06492358B2
1-(3,4-Methylenedioxyphenyl)-2-[5-(3,4-dimethoxyphenyl)pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline (#7)
A solution of 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (3.73 g, 12.8 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24) and 2-chloro-5-(3,4-dimethoxyphenyl)pyrimidine (1.6 g, 6.4 mmol) in DMF (50 mL, anhydrous) was heated at 120° C. under stirring for 16 h. The reaction mixture was quenched with NH4Cl and extracted with ethyl acetate. The organic phase was washed with brine (2×) and dried with MgSO4. Column chromatography (silica gel, ethyl acetate:hexanes=2:3) yielded a white solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 12.8 mmol, 3.73 g | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | 2-chloro-5-(3,4-dimethoxyphenyl)pyrimidine | 6.4 mmol, 1.6 g | ClC1=NC=C(C=N1)C1=CC(=C(C=C1)OC)OC | C12H11ClN2O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(3,4-Methylenedioxyphenyl)-2-[5-(3,4-dimethoxyphenyl)pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C=N1)C1=CC(=C(C=C1)OC)OC | C30H26N4O4
